US09034899B2
To a solution of 2-bromo-1-(3,4-dichlorophenyl)ethanone (5.1 g, 18.96 mmol) in methanol (50 mL) at 0° C. was added sodium borohydride (2.1 g, 56.98 mmol). The reaction mixture was stirred at 0° C. for 1 hour. The pH was adjusted to 12 using 2 M sodium hydroxide solution, the solvent was then removed under reduced pressure and the residue was dissolved in dichloromethane. The resultant solution was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure to give 2-(3,4-dichlorophenyl)oxirane (1.79 g, 50% crude). The crude product was used in the next step without further purification: 1H NMR (CDCl3, 500 MHz) δ 7.41 (d, J=8.5 Hz, 1H), 7.36 (d, J=2.0 Hz, 1H), 7.12 (dd, J=8.5, 2.0 Hz, 1H), 3.81 (dd, J=4.0, 2.5 Hz, 1H), 3.14 (dd, J=5.5, 4.0 Hz, 1H), 2.73 (dd, J=5.5, 2.5 Hz, 1H); ESI MS m/z 189 [M]+.

reactant | 2-bromo-1-(3,4-dichlorophenyl)ethanone | 18.96 mmol, 5.1 g | BrCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | sodium borohydride | 56.98 mmol, 2.1 g | [BH4-].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-(3,4-dichlorophenyl)oxirane | 1.79 g, 50% | ClC=1C=C(C=CC1Cl)C1OC1 | C8H6Cl2O
